US07547691B2
(B). Preparation of 2-{5-chloro-2-[3-(4-methylpiperazin-1-yl)-propylamino]-pyrimidin-4-yl}-benzo[b]thiophene-6-carbonitrile
Using the method of (2-{2-[3-(4-methylpiperazin-1-yl)-propylamino]-pyrimidin-4-yl}-benzo[b]thiophen-6-ylmethyl)-carbamic acid tert-butyl ester, the title compound is synthesized from 2-(2,5-dichloropyrimidin-4-yl)benzo[b]thiophene-6-carbonitrile and 1-(3-aminopropyl)-4-methylpiperazine and isolated as a solid. ES+(m/z) 427 (35Cl) and 429 (37Cl) [M+H].

reactant | (2-{2-[3-(4-methylpiperazin-1-yl)-propylamino]-pyrimidin-4-yl}-benzo[b]thiophen-6-ylmethyl)-carbamic acid tert-butyl ester | C(C)(C)(C)OC(NCC=1C=CC2=C(SC(=C2)C2=NC(=NC=C2)NCCCN2CCN(CC2)C)C1)=O | C26H36N6O2S
reactant | 2-(2,5-dichloropyrimidin-4-yl)benzo[b]thiophene-6-carbonitrile | ClC1=NC=C(C(=N1)C1=CC2=C(S1)C=C(C=C2)C#N)Cl | C13H5Cl2N3S
reactant | 1-(3-aminopropyl)-4-methylpiperazine | NCCCN1CCN(CC1)C | C8H19N3
product | 2-{5-chloro-2-[3-(4-methylpiperazin-1-yl)-propylamino]-pyrimidin-4-yl}-benzo[b]thiophene-6-carbonitrile | ClC=1C(=NC(=NC1)NCCCN1CCN(CC1)C)C1=CC2=C(S1)C=C(C=C2)C#N | C21H23ClN6S
